US08080544B2
Step A. tert-Butyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate
To a stirred mixture of 1-piperidin-4-yl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one dihydrochloride [Burgey et al. U.S. Pat. No. 6,953,790 B2] (611 mg, 2.10 mmol) and di-tert-butyl dicarbonate (550 mg, 2.52 mmol) in CH2Cl2 (7 mL) at ambient temperature was added triethylamine (0.97 mL, 6.93 mmol). The resulting mixture was stirred at ambient temperature for 2 h then partitioned between CH2Cl2 (100 mL) and saturated aqueous NaHCO3 (30 mL). The organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of CH2Cl2:MeOH—100:0 to 95:5, to give the title compound. MS: m/z=319 (M+1).

reactant | 1-piperidin-4-yl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one dihydrochloride | Cl.Cl.N1CCC(CC1)N1C(NC2=NC=CC=C21)=O
reactant | di-tert-butyl dicarbonate | 2.52 mmol, 550 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 6.93 mmol, 0.97 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N4O3
